US07226926B2
2-{3-[2-(3,4-Difluorophenyl)pyrimidin-4-yl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol
3,4-Difluorophenylboronic acid (90 mg, 0.57 mmol), 3-(2-chloropyrimidin-4-yl)-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine (120 mg, 0.29 mmol), tetrakis(triphenylphosphine)palladium(0) (16 mg, 0.015 mmol), THF (1.4 ml) and aqueous Na2CO3 solution (2M; 0.44 ml) were combined and heated to reflux for 18 h. On cooling, the mixture was partitioned between 2M NaOH solution (2 ml) and CH2Cl2 (3 ml) and the phases separated using a phase-separation cartridge. The organic fraction was purified by column chromatography (silica, 90% EtOAc/isohexane), then the silyl protection removed by treatment with an ethanolic solution of 37% hydrochloric acid (5 drops in 2 ml of ethanol). After 48 h, the solution was concentrated in vacuo and the residue partitioned between EtOAc and saturated aqueous NaHCO3. The organic phase was dried over MgSO4, filtered, concentrated and the residue purified by column chromatography (silica, EtOAc) affording the title compound as a white amorphous solid (158 mg): δH (360 MHz, CDCl3) 1.76 (6H, s), 7.00-7.20 (2H, m), 7.40-7.70 (2H, m), 8.20-8.40 (1H, m), 8.36 (1H, s), 8.80 (1H, m), 9.90-9.92 (1H, m); m/z (ES+) 385 (100%, [MH]+).

reactant | 3,4-Difluorophenylboronic acid | 0.57 mmol, 90 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | 3-(2-chloropyrimidin-4-yl)-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine | 0.29 mmol, 120 mg | ClC1=NC=CC(=N1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O[Si](CC)(CC)CC | C20H26ClFN4OSi
reactant | Na2CO3 | 2M, 0.44 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.015 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 1.4 ml | C1CCOC1 | C4H8O
product | 2-{3-[2-(3,4-Difluorophenyl)pyrimidin-4-yl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol | FC=1C=C(C=CC1F)C1=NC=CC(=N1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C20H15F3N4O
